US08168788B2
2,5-Dihydro-pyrrole-1-carboxylic acid tert-butyl ester (A)
Pyrroline (65% purity, 20 g) was dissolved in CH2Cl2 (500 mL), Et3N (44 mL, 1.1 eq) was added. The mixture was cooled to 0° C. Boc anhydride (68 g, 1.01 eq) was added very slowly at 0° C. Finally the reaction mixture was stirred at 0° C. to RT for overnight. The reaction mixture was washed with 1N NaOH solution (2×100 mL). The organic phase was dried over Na2SO4. The resulting oil was purified by column chromatography (Hexane:Ethyl Acetate 3:1) to give 46.46 g of desired product as a colorless oil (95% yield, 65% purity). 1H-NMR (300 MHz, CDCl3): δ 1.45 (s, 9H), 4.08 (d, 4H), 5.73 (d, 2H)

reactant | Pyrroline | 20 g | N1C=CCC1 | C4H7N
reactant | Et3N | 44 mL, 1.1 eq | CCN(CC)CC | C6H15N
reactant | Boc anhydride | 68 g, 1.01 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dihydro-pyrrole-1-carboxylic acid tert-butyl ester | 46.46 g, 95% yield | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
